2195-01-23 05:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 68 y/o male w/ a hx of CAD and MI who is transfered
   from NEBH after a STEMI following spinal surgery in persistent a.fib
   with continued hypoxia now s/p cath with a DES to the mid-LAD
   24 Hour Events:
   Cath yesterday showed high grade mid-LAD 90% lesion with thrombus, got
   [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **].  Was given N-acetylcysteine and sodium bicarb prior to
   procedure, Creat post-procedure was 2.6.
   At 10pm, HR increased to 100s, 110s.  Was given
   The patient's Cr rose to 2.2 this am, 2.4 on recheck (from 1.3).  He
   went to cath where he was found to have single vessel disease of the
   LAD with a mid vessel high grade 90% lesion with thrombus which was
   stented with a Xience 3x18mm stent.  Also moderate biventricular
   diastolic dysfunction and moderate pulmonary arterial hypertension were
   noted.  Urinary eosinophils were checked and returned positvie with
   rare eosinophils seen.  His FEurea returned at 19.3% which suggests a
   prerenal etiology.  He was given acetylcysteine and IVF with bicarb pre
   and post procedure for renal protection.  A post cath Cr returned at
   2.6.  His vanc and zosyn were stopped as he has been afebrile; he was
   continued on levofloxacin.  His post cath check was normal.  Around 10
   pm his HR started increasing to the 100's to 110's. He was given an
   extra 30 mg of po dilt (was still on 5 mg/hr IV dilt gtt at the time
   and had gotten his po metoprolol 2 hrs prior).  He then started to have
   hypoxia to the mid 80's even on 50% facemask.  His post cath IVF were
   stopped and he was given 40 mg IV lasix.  He was wheezy on exam so he
   was given albuterol and atrovent.  An ABG showed 7.50/37/84/30 (likely
   metabolic alkalosis from bicarb drip).  A CXR showed some mild increase
   in fluid in his lungs, but no infiltrate.  His sats then improved to
   the mid to high 90's.  His HR then persistently increased to the 100's
   sometimes increasing to the 120's to 130's.  His dilt gtt was turned up
   at intervals eventually to 15 mg/hr.  He was given another 30 mg of
   dilt and then 25 mg of metoprolol.  (and his normal doses were
   increased to dilt 60 qid and metoprolol 25 tid).  He was still high so
   10 mg IV dilt was pushed twice.  Finally his HRs decreased to the 80's
   to 90's.  Throughout this he remained asymptomatic and comfortable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2195-1-20**] 02:00 PM
   Vancomycin - [**2195-1-21**] 07:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2195-1-22**] 06:00 AM
   Levofloxacin - [**2195-1-22**] 06:00 PM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Eptifibatide (Integrilin) - 1 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2195-1-22**] 11:00 PM
   Diltiazem - [**2195-1-22**] 11:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-23**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 77 (63 - 128) bpm
   BP: 105/46(60) {92/37(52) - 138/70(77)} mmHg
   RR: 23 (13 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 94.9 kg (admission): 103.3 kg
   Height: 68 Inch
             Total In:
                                                                  3,982 mL
                                                                    281 mL
   PO:
                                                                    670 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  3,312 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  1,077 mL
                                                                    445 mL
   Urine:
                                                                  1,077 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,905 mL
                                                                   -164 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.50/37/84.[**Numeric Identifier 1000**]/27/4
   PaO2 / FiO2: 88
   Physical Examination
   GENERAL: Middle- aged male lying in bed in NAD. Alert and Oriented x3.
   Mood, affect appropriate.
   HEENT: NCAT, OP clear
   NECK: JVP 9 cm
   CARDIAC: RRR, no MRG
   LUNGS: a few crackles at the bases b/l
   ABDOMEN: + BS, soft with slight distension, nontender
   EXTREMITIES: No c/c/e.
   SKIN: No stasis dermatitis, no cyanosis
   BACK: dressing intact without drainage, erythema or edema.  NT to
   palpation along spine.
   PULSES:  2+ throughout
   Labs / Radiology
   496 K/uL
   10.7 g/dL
   151 mg/dL
   2.6 mg/dL
   27 mEq/L
   3.6 mEq/L
   36 mg/dL
   91 mEq/L
   130 mEq/L
   29.6 %
   19.9 K/uL
        [image002.jpg]
                             [**2195-1-20**]  04:53 AM
                            [**2195-1-21**]  05:30 AM
                            [**2195-1-21**]  05:17 PM
                            [**2195-1-22**]  04:28 AM
                            [**2195-1-22**]  10:06 AM
                            [**2195-1-22**]  12:35 PM
                            [**2195-1-22**]  12:52 PM
                            [**2195-1-22**]  04:25 PM
                            [**2195-1-22**]  10:56 PM
                            [**2195-1-23**]  05:15 AM
   WBC
   17.0
   19.2
   19.2
   19.9
   Hct
   29.7
   29.9
   30.9
   33
   29.6
   Plt
   335
   441
   459
   415
   496
   Cr
   1.2
   1.4
   1.3
   2.2
   2.4
   2.4
   2.6
   TCO2
   31
   30
   Glucose
   143
   149
   134
   178
   203
   159
   151
   Other labs: PT / PTT / INR:20.0/64.1/1.9, CK / CKMB /
   Troponin-T:99/7/2.21, ALT / AST:27/26, Alk Phos / T Bili:78/0.6,
   Amylase / Lipase:29/32, Differential-Neuts:84.0 %, Lymph:8.9 %,
   Mono:4.6 %, Eos:1.9 %, Lactic Acid:1.1 mmol/L, LDH:826 IU/L, Ca++:8.6
   mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Patient is a 68 y/o male w/ a hx of CAD and MI who is transferred from
   NEBH after a STEMI following spinal surgery.  Course complicated by
   pulmonary edema c/w CHF, atrial fibrillation, ARF, ileus and some
   continued hypoxemia despite significant volume removal via diuresis.
   # Leukocytosis/Fever.  Now afebrile with WBC stable at 19.2.  From
   prior records, WBC has been elevated in the past.  No clear signs of
   pneumonia per CXR; however pt has now improved on antibiotics and has
   been in hospital setting.  Sputum X 2 with oropharnygeal
   contamination.  Chest CT showed mild pulmonary edema, bilateral
   atelectasis and a small left pleural effusion as well as calcified
   pleural plaques indicating prior asbestos exposure.
   - continue to follow cultures
   - Serial back exams daily
   - Will hold on MRI for now given low likelihood of post-op surgical
   infection so soon after operation.  Ortho agrees that an MRI is not
   necessary at this time.
   - Will DC Vancomycin and Zosyn (day #1 = [**2195-1-19**]) as there is no
   clinical evidence of infection requiring board-spectrum coverage.
   - Continue Levofloxacin (day #1 = [**2195-1-20**]) as he became afebrile once
   the levofloxacin was added.
   .  # RHYTHM:  Patient developed AF in post-MI setting, with HR of 140s,
   managed initially on amioderone, dilt gtt, and metoprolol at NEBH.
   Failed cardioversion, had been on Amiodarone and failed.  Patient had
   been in afib rate controlled with a dilt gtt yesterday and the dilt gtt
   was stopped and he was switched to po dilt, however he developed a
   flutter with HRs in the 150s unresponseive to 10 mg IV dilt x3 and
   increased dosing of po dilt.  Was eventually placed back on a dilt gtt
   with control of his rate.
   - continue heparin gtt
   - diltiazem gtt titrate to HR =<80s, and SBP > 100 mmHg.   Will
   gradually add po dilt and slowly wean off the dilt gtt.  Also getting
   po metoprolol.
   # Hypoxia.  Chest CT does not show focal consolidation, however patient
   has been coughing and improved with antibiotics.  Likely some
   atelectasis with small bilateral pulmonary effusions per CT.
   .  LENIs negative although PE is still in differential.
   - continue diuresis w/ lasix gtt and diuril as necessary
   - continue Vancomycin, Zosyn and Levo as per above
   # CORONARIES:  S/P STEMI post-operatively.  He continues to be chest
   pain free.  No signs or symptoms of LV wall rupture or VSD.  No new
   murmurs.  Currently in afib post-STEMI.
   - ASA 325mg, Plavix, Heparin gtt
   - Cath today.
   - Continue metoprolol 12.5 mg tid.
   - consider ACE when tolerated by BP
   # Acute renal failure: Patient with a Cr rise to 2.2 from a baseline of
   1.3 to 1.6.  Unclear cause, possibly due to slight hypotension during
   the episode of tachycardia yesterday.  Differential includes prerenal
   vs ATN vs AIN (given recent antibiotics), vs postrenal.  Vanc level was
   elevated at 22.3, but this is unlikely to have caused such a large
   increase in Cr.
   -  Will given IVF with bicarb and acetylcysteine given dye at cath
   -  Trend Cr
   -  Check urinary electrolytes and urinary eosinophils
   -  Place foley to check for urinary retension and consider a renal US
   if his Cr continues to worsen.
   -  Hold diuresis for now.
   # PUMP:  Echo at NEBH shows EF of 40% with apical and septal HK.
   Appears to be in failure and has benefited symptomatically from
   diuresis.
   - Lasix gtt stopped given ARF
   - Consider starting an acei once ARF is resolved.
   - Diltiazem and metoprolol as above for rate control and improved
   filling
   # Anemia:  Pronounced Hct drop in days following surgery.  Suspect may
   be [**3-15**] to IVF.  No clear bleeding, but patient on heparin post op, so
   may have surgical bleed.  HCT stable at 30.9 today.
   - continue to monitor
   #  Post op ileus:  Patient had two loose bowel movements overnight.
   - continue bowel regimen with colace, senna, lactulose PRN
   # Spinal surgery:  Per discussion w/ Dr. [**Last Name (STitle) 4167**], surgeon from [**Hospital1 **] who
   performed procedure, pt. has no restrictions, OOB as tolerated.  Has
   evaluated for post-op infection, recommended MRI if concerns for
   infection; however suspicion is low at this time.  No signs of
   infection so far.
   - IV morphine PRN and Tylenol RTC, given now that he has been Cx.
   - ortho now signed off
   FEN:  clears
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with systemic heparin
   -Pain management with Tylenol and IV morphine prn
   -Bowel regimen as listed above
   CODE: FULL code, discussed with patient and family.
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-1-21**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-01-24 05:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt was transitioned from Dilt gtt to PO Dilt yesterday.  Renal function
   stable in the evening.  Received 40mg IV lasix in the morning and 80mg
   IV Lasix in the evening.  Pt recommending home without PT.   Pt. was
   also started on warfarin, received 1 dose, continued on heparin gtt.
   Vanco/Zosyn were discontinued.
   This AM pt c/o back pain w/ movement, reports [**3-23**] pain, but can not
   sit up in bed w/o wincing and caution.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-1-21**] 07:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2195-1-22**] 06:00 AM
   Levofloxacin - [**2195-1-22**] 06:00 PM
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2195-1-23**] 04:03 PM
   Diltiazem - [**2195-1-23**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-24**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 70 (64 - 80) bpm
   BP: 104/46(61) {79/28(43) - 135/75(80)} mmHg
   RR: 17 (17 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 96.9 kg (admission): 103.3 kg
   Height: 68 Inch
   Telemetry: 60-70s, PVCs and 4-5b runs of NSVT.
   Total In:
                                                                  1,332 mL
                                                                    218 mL
   PO:
                                                                    600 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    732 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    400 mL
   Urine:
                                                                  1,850 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -518 mL
                                                                   -182 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 3L
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   GENERAL: Middle- aged male lying in bed in NAD. Alert and Oriented x3.
   Mood, affect appropriate.
   HEENT: NCAT, OP clear
   NECK: JVP 7 cm
   CARDIAC: [**Last Name (un) **]/[**Last Name (un) **], no MRG
   LUNGS:  CTA b/l
   ABDOMEN: + BS, soft with slight distension, nontender
   EXTREMITIES: Trace pitting edema b/l.
   SKIN: No stasis dermatitis, no cyanosis
   BACK: dressing intact without drainage, erythema or edema.  NT to
   palpation along spine.
   PULSES:  2+ throughout
   Labs / Radiology
   439 K/uL
   9.5 g/dL
   140 mg/dL
   2.8 mg/dL
   27 mEq/L
   3.9 mEq/L
   40 mg/dL
   98 mEq/L
   134 mEq/L
   27.2 %
   18.7 K/uL
        [image002.jpg]
                            [**2195-1-21**]  05:17 PM
                            [**2195-1-22**]  04:28 AM
                            [**2195-1-22**]  10:06 AM
                            [**2195-1-22**]  12:35 PM
                            [**2195-1-22**]  12:52 PM
                            [**2195-1-22**]  04:25 PM
                            [**2195-1-22**]  10:56 PM
                            [**2195-1-23**]  05:15 AM
                            [**2195-1-23**]  05:48 PM
                            [**2195-1-24**]  04:16 AM
   WBC
   19.2
   19.9
   18.7
   Hct
   30.9
   33
   29.6
   27.2
   Plt
   459
   415
   496
   439
   Cr
   1.3
   2.2
   2.4
   2.4
   2.6
   3.0
   2.9
   2.8
   TCO2
   31
   30
   Glucose
   134
   178
   203
   159
   151
   158
   165
   140
   Other labs: PT / PTT / INR:18.8/107.2/1.7, CK / CKMB /
   Troponin-T:101/4/2.21, ALT / AST:27/26, Alk Phos / T Bili:78/0.6,
   Amylase / Lipase:29/32, Differential-Neuts:84.0 %, Lymph:8.9 %,
   Mono:4.6 %, Eos:1.9 %, Lactic Acid:1.1 mmol/L, LDH:826 IU/L, Ca++:9.1
   mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Patient is a 68 y/o male w/ a hx of CAD and MI who is transferred from
   NEBH after a STEMI following spinal surgery.  Course complicated by
   pulmonary edema c/w CHF, atrial fibrillation, ARF, ileus and some
   continued hypoxemia despite significant volume removal via diuresis.
   Cath with mid-LAD thrombus s/p DES [**2195-1-22**].  Now afebrile but on
   Tylenol and stable WBC count.
   # Hypoxia.  Much improved.  Likely from pulmonary edema in the setting
   of IVF in cath lab and afib with RVR.  Responded to 120mg IV Lasix
   total yesterday.  CTAB today.
   - Wean off O2
   - diurese w/ goal of -0.5L today
   - PM lytes
   - Continue Levoquin for 10 day course (today is day [**6-21**]) for HCAP.
   - f/[**Location 39**] CXR read
   # CORONARIES:  S/P STEMI post-operatively.  He continues to be chest
   pain free.  No signs or symptoms of LV wall rupture or VSD.  No new
   murmurs.  Currently in afib post-STEMI.  Cath [**2195-1-22**] showing mid-LAD
   thrombus, now s/P LAD stent.
   - ASA 325mg, Plavix, Heparin gtt
   - Metoprolol 25mg PO TID, Simvastatin
   - Will start  ACE when tolerated by BP and Cr. improves.
   .# RHYTHM:  Patient developed AF in post-MI setting, with HR of 140s,
   managed initially on amioderone, dilt gtt, and metoprolol at NEBH.
   Failed cardioversion, had been on Amiodarone and failed.  Patient had
   been in afib rate controlled with a dilt gtt and has been difficult to
   transition to PO Dilt, successfully transitioned yesterday w/ 90mg QID,
   gtt off since 5pm.
   - Continue Diltiazem 90mg PO QID
   - Continue Metoprolol to 25mg PO TID
   - continue heparin gtt and Coumadin, d/c heparin once INR > 2.0 x 24hrs
   # PUMP:  Echo here w/ LVEF 35-40%, mild symmetric LVH w/ regional
   systolic dysfunction c/w CAD and mild MR.  On exam much improved from
   yesterday, trace LE edema.  Has runs of NSVT on Tele.
   - diurese today with Lasix for goal of -0.5L
   - Will start  ACEI once ARF is improved and BPs tolerate (mean SBP >
   110).
   - Diltiazem and metoprolol as above for rate control and improved
   filling
   - Pt. will require ECHO within 6-8wks as OP and ECG to assess for need
   of an ICD, as currently w/ runs of NSVT.
   # Acute renal failure: Creatinine now stable, UOP > 50cc/hr and  urine
   lytes consistent with pre-renal via FeUrea.  Will continue to monitor.
   Will monitor for CIN as pt. received dye load in setting of elevated
   Cr.
   -  continue to monitor urine output and creatinine
   - hold nephrotoxic meds
   # Anemia:  Pronounced Hct drop in days following surgery.  Suspect may
   be [**3-15**] to IVF.  No clear bleeding, but patient on heparin post op, so
   may have surgical bleed.  HCT 27.2, mostly ranging in 28-31 since
   admission.
   -          continue to monitor
   -          guiac all stools.
   #  Post op ileus:  Having intermittent bowel movements.
   - continue bowel regimen with colace, senna, lactulose PRN
   # Spinal surgery:  Per discussion w/ Dr. [**Last Name (STitle) 4167**], surgeon from [**Hospital1 **] who
   performed procedure, pt. has no restrictions, OOB as tolerated.  Has
   evaluated for post-op infection, recommended MRI if concerns for
   infection; however suspicion is low at this time.  No signs of
   infection so far.  Pt. ambulating w/ walker comfortably.
   - change Tylenol to prn to monitor for fever, given now that he has
   been Cx.
   - oxycodone 5mg q4h prn pain
   FEN:  cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with systemic heparin
   -Pain management with Tylenol and oxycodone
   -Bowel regimen as listed above
   CODE: FULL code, discussed with patient and family.
   DISPO: CCU